* AD103 Lab 03 - the same output characteristic with W and L in METRES.
*
* Run it with "make wrong-units". It is meant to fail. Two characters differ
* from id_vds.spice, and nothing in XSchem, in the netlist, or in the first
* forty lines of ngspice output will tell you which two.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* The only change from id_vds.spice is the "u" on L and W below.
XM1 d g 0 0 sky130_fd_pr__nfet_01v8 L=1u W=5u

Vgs g 0 1.8
Vds d 0 0

.control
dc Vds 0 1.8 0.01
print i(vds)
.endc
.end
