* AD103 Lab 03 - the region the textbook calls "off"
*
* Same device, same V_DS = 1.8 V saturation sweep, but stepped finely from
* 0 V and read on a log scale. Below threshold the drain current does not go
* to zero - it goes to zero EXPONENTIALLY, and how fast is a number every
* chip designer knows: the subthreshold slope, in millivolts per decade.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

XM1 d g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5

Vgs g 0 0
Vds d 0 1.8

.control
dc Vgs 0 1.8 0.005
let id = -i(vds)
wrdata ../results/id_vgs_log.txt id
.endc
.end
