* AD103 Lab 03 - the threshold voltage is a function of the source-to-bulk voltage
*
* One transistor, W = 5 um, L = 1 um -- the same device the rest of this lab
* uses. The only thing that changes is how far the SOURCE sits above the BULK.
*
* Note the node order on the device line: d g s b. Everywhere else in this lab
* the source and the bulk are both node 0, so V_SB is zero and the body effect
* is invisible. Here the source is lifted onto its own node and Vsb pushes it
* up, one step at a time, while V_GS and V_DS stay fixed RELATIVE TO THE SOURCE
* -- which is what Vgs g s and Vds d s do.
*
* V_DS is held at 50 mV so the drain is not moving vth as well. This deck is
* asking about the bulk alone.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

XM1 d g s 0 sky130_fd_pr__nfet_01v8 L=1 W=5

Vsb s 0 0
Vgs g s 1.8
Vds d s 0.05

.control
echo
echo "--- vth and I_D vs V_SB, W = 5 um, L = 1 um, V_GS = 1.8 V, V_DS = 0.05 V ---"
foreach vsb 0 0.3 0.6 0.9 1.2
  alter Vsb = $vsb
  op
  echo "V_SB = $vsb V"
  print @m.xm1.msky130_fd_pr__nfet_01v8[vth] i(Vds)
end

alter Vsb = 0
echo
echo "--- and the same device, V_SB = 0, at three temperatures ---"
foreach t -40 27 125
  set temp = $t
  op
  echo "T = $t C"
  print @m.xm1.msky130_fd_pr__nfet_01v8[vth] i(Vds)
end
.endc
.end
