* AD103 Lab 04 - five ways to build "twice as wide", and they do not agree
*
* Device A is the reference: one nfet_01v8, W = 5 um, L = 1 um.
* Everything below claims to be two of it. Same bias for all of them,
* V_GS = V_DS = 1.8 V.
*
*   A   W=5                    the reference
*   B   W=10                   one device, drawn twice as wide
*   C   two W=5 in parallel     two separate transistors sharing both nodes
*   D   W=5 m=2                 ngspice's subcircuit multiplier
*   E   W=5 mult=2              what the sky130 subckt calls its multiplier
*   F   W=10 nf=2               one 10 um device folded into two 5 um fingers
*
* Two of these six lines do something you did not ask for, and ngspice prints
* no warning for either. Finding out which is the point of the deck.
*
*   ngspice -b spice/double_w.spice

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

XA  da g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5
XB  db g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=10
XC1 dc g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5
XC2 dc g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5
XD  dd g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5 m=2
XE  de g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5 mult=2
XF  df g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=10 nf=2

Vg  g  0 1.8
Vda da 0 1.8
Vdb db 0 1.8
Vdc dc 0 1.8
Vdd dd 0 1.8
Vde de 0 1.8
Vdf df 0 1.8

.control
op
echo "--- I_D (A) ---"
echo "    A W=5 | B W=10 | C two W=5 | D W=5 m=2 | E W=5 mult=2 | F W=10 nf=2"
let ia = -i(Vda)
let ib = -i(Vdb)
let ic = -i(Vdc)
let id = -i(Vdd)
let ie = -i(Vde)
let if_ = -i(Vdf)
print ia ib ic id ie if_
echo
echo "--- and A doubled by hand, for comparison (A) ---"
let two_a = 2*ia
print two_a
echo
echo "--- threshold voltage vth (V): A (W=5) then B (W=10) ---"
print @m.xa.msky130_fd_pr__nfet_01v8[vth] @m.xb.msky130_fd_pr__nfet_01v8[vth]
.endc
.end
