* AD103 Lab 04 - the W ladder
*
* Six nfet_01v8 devices, all L = 1 um, widths 1 / 2 / 5 / 10 / 20 / 50 um.
* Identical bias: V_GS = V_DS = 1.8 V, so every one of them is wide open and
* saturated. The only thing that differs between them is how wide the channel is.
*
* The claim under test is the one every textbook makes:  I_D is proportional
* to W.  Six points is enough to find out whether that is true, and where it
* stops being true.
*
*   ngspice -b spice/w_ladder.spice
*
* W and L are PLAIN MICRON NUMBERS. W=5 means five micrometres. Never W=5u.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

XW1  w1  g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=1
XW2  w2  g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=2
XW5  w5  g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5
XW10 w10 g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=10
XW20 w20 g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=20
XW50 w50 g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=50

Vg   g   0 1.8
Vw1  w1  0 1.8
Vw2  w2  0 1.8
Vw5  w5  0 1.8
Vw10 w10 0 1.8
Vw20 w20 0 1.8
Vw50 w50 0 1.8

.control
op
echo "--- W (um) then I_D (A), for W = 1 2 5 10 20 50 at L = 1 um ---"
* ngspice reports current INTO the + terminal of a source, so flip the sign.
let i1  = -i(Vw1)
let i2  = -i(Vw2)
let i5  = -i(Vw5)
let i10 = -i(Vw10)
let i20 = -i(Vw20)
let i50 = -i(Vw50)
print i1 i2 i5 i10 i20 i50
echo
echo "--- and the threshold voltage the model used for each of them (V) ---"
print @m.xw1.msky130_fd_pr__nfet_01v8[vth] @m.xw2.msky130_fd_pr__nfet_01v8[vth] @m.xw5.msky130_fd_pr__nfet_01v8[vth]
print @m.xw10.msky130_fd_pr__nfet_01v8[vth] @m.xw20.msky130_fd_pr__nfet_01v8[vth] @m.xw50.msky130_fd_pr__nfet_01v8[vth]
.endc
.end
