* AD103 survival card, analysis 2 -- .dc, sweep a source
* Printed on docs/reference/ngspice-errors.md, section "2. .dc"
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt
XM1 d g 0 0 sky130_fd_pr__nfet_01v8 L=1 W=5
Vgs g 0 0
Vds d 0 1.8
.control
dc Vgs 0 1.8 0.01
let id = -i(Vds)
meas dc id_1v8 find id at=1.8
meas dc id_0v9 find id at=0.9
meas dc vg_at_1ua when id=1u rise=1
.endc
.end
