* AD103 survival card -- the R and the C of the other two decks, on their own
* Printed on docs/reference/ngspice-errors.md, section
* "The two analyses have to agree -- check that they do"
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt
Ir 0 a dc 1u
XR1 a 0 sky130_fd_pr__res_generic_po W=1 L=200
Vc c 0 dc 0 ac 1
XC1 c 0 sky130_fd_pr__cap_mim_m3_1 W=10 L=10 MF=1 m=1
.control
op
let r = v(a)/1u
print r
ac lin 1 1meg 1meg
let cmim = abs(i(Vc))/(2*pi*1e6)
print cmim
.endc
.end
